US05567711
Step 1: 6-(4-fluorophenyl)indole-1-carboxylic acid t-butyl ester.
The desired compound was prepared by treating a solution in CH3CN of 6-(4-fluorophenyl)indole with di-tert-butyldicarbonate and 4-dimethylaminopyridine.

reactant | 6-(4-fluorophenyl)indole | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | CC#N | C2H3N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-(4-fluorophenyl)indole-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)F | C19H18FNO2
